2151-11-25 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2151-11-24**] 08:31 AM
 NASAL SWAB - At [**2151-11-24**] 08:31 AM
   mrsa
 EEG - At [**2151-11-24**] 12:50 PM
 TRANSTHORACIC ECHO - At [**2151-11-24**] 03:00 PM
 EKG - At [**2151-11-24**] 11:00 PM
   - Contact[**Name (NI) **] Radius re: pt's baseline (talked to nurse [**Last Name (Titles) 141**]): pt was
   living at home with daughter, was ambulating however not speaking much
   and had functional decline.  Then was at [**Hospital1 **] in [**Month (only) 11**] to [**May 2151**] and was
   thought to have ALS with frontotemporal component. After discharge, pt
   was sent to Radius. There she is not ambulatory (tried initially but
   unsuccessful), does not speak.  Seems to have some cognition, i.e. will
   follow you with eyes, reach out her hand for glucose checks, listens
   and moves to music while lying in bed.  Of note, during 45 min of CPR
   during PEA arrest, pt did receive 1 Amp of Epi.
   - per family, patient does communicate at baseline with eyes only.
   family says they may consider withdrawing care, pending no improvement
   in pt's mental status. family is considering funeral arrangements now.
   but still FULL CODE and DO EVERYTHING.
   -echo:Mild symmetric left ventricular hypertrophy with preserved global
   and regional biventricular systolic function. Mild mitral regurgitation
   with normal valve morphology. ef >55%
   -still needing pressor
   -still paralyzed
   -started on 5 days of azithro
   -MAP goal >60-70
   -EEG on, per neuro no evidence of seizure, just monitoring - findings
   may be consistent with anoxic ischemic encephalopathy or secondary to
   benzodiazepines
   - 3 sets cardiac enzymes flat
   - lactate improved
   - negative urine legionella
   - EKG with continued ST elevations; AM EKG is in 'diagnostics' section
   of her chart to compare (i think we should look at this on rounds)
   -d/c summary from [**2151-5-31**] is very useful to get a background for her
   disease
   - SBPs down to 70s this AM, improved to 100s after 1L NS bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2151-11-24**] 04:00 PM
   Vancomycin - [**2151-11-24**] 08:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-25**] 05:32 AM
   Infusions:
   Heparin Sodium - 400 units/hour
   Cisatracurium - 0.12 mg/Kg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-11-24**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-25**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.1
C (93.4
   Tcurrent: 34.1
C (93.4
   HR: 56 (49 - 75) bpm
   BP: 105/55(75) {80/46(61) - 147/81(108)} mmHg
   RR: 10 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  6,183 mL
                                                                    634 mL
   PO:
             TF:
   IVF:
                                                                  3,153 mL
                                                                    634 mL
   Blood products:
   Total out:
                                                                  2,865 mL
                                                                    370 mL
   Urine:
                                                                  2,315 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,318 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 480) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/49/164/30/4
   Ve: 4.4 L/min
   PaO2 / FiO2: 328
   Physical Examination
   GEN: sedated, unresponsive
   HEENT: MMM, trach in place, neck is supple, no LAD
   CV: RR, tachy, no MRG
   PULM: Coarse rhonchi and crackles throughout the L lung fields, coarse
   breath sounds on the R
   ABD: BS+ NDNS, no masses or HSM
   LIMBS: R femoral line in place, no LE edema, no clubbing, wasted limbs
   SKIN: No skin breakdown or rashes
   NEURO: unresponsive, occasional myoclonic jerks of [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 610**] / Radiology
   241 K/uL
   8.8 g/dL
   152 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   28.4 %
   12.5 K/uL
        [image002.jpg]
                            [**2151-11-24**]  06:22 AM
                            [**2151-11-24**]  08:22 AM
                            [**2151-11-24**]  11:57 AM
                            [**2151-11-24**]  12:39 PM
                            [**2151-11-24**]  05:40 PM
                            [**2151-11-24**]  05:44 PM
                            [**2151-11-25**]  12:07 AM
                            [**2151-11-25**]  12:08 AM
                            [**2151-11-25**]  06:13 AM
                            [**2151-11-25**]  06:14 AM
   WBC
   22.7
   15.4
   13.1
   13.7
   12.5
   Hct
   33.8
   29.4
   30.0
   29.7
   28.4
   Plt
   322
   265
   252
   293
   241
   Cr
   0.3
   0.2
   0.2
   0.2
   0.2
   TropT
   0.02
   0.02
   0.02
   TCO2
   31
   36
   34
   31
   31
   Glucose
   174
   171
   107
   99
   124
   152
   Other labs: PT / PTT / INR:12.2/55.0/1.0, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:247/121, Alk Phos / T Bili:110/0.3,
   Amylase / Lipase:/11, Fibrinogen:434 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:3.3 g/dL, LDH:328 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Cardiac enzymes flat
   UA [**11-24**]: negative except [**5-12**] RBC
   Urine Legionella negative
   Micro:
   [**Date range (1) 10035**] Blood Cx - pending
   [**11-24**] Urine Cx
 pending
   [**11-24**] Sputum cx: gram stain >25 PMNs, 2+ GPC in pairs and clusters
   MRSA screen positive
   .
   Images:
   [**11-25**] CXR -
   The tracheostomy is in unchanged position, 4.5 cm above the carina.
   There is
   no change in cardiomegaly and bilateral parenchymal consolidations in
   the
   lower lobes, but there is interval improvement in the upper lobe
   aeration,
   most likely due to improvement of areas of contusion/aspiration.
   Assessment and Plan
 CARDIAC ARREST
   53F with amyotrohic lateral sclerosis with frontotemporal dementia
   admitted after 45 minutes of CPR for a PEA arrest as well as possible
   STEMI on Artic Sun protocol and aspiration PNA on antibiotics.
   # PEA arrest: Etiology is likely aspiration PNA leading to STEMI.
   - Initial therpeutic hypothermia with the Artic Sun protocol, now
   starting to warm up gradually
   - Continue to monitor on tele
   - Has [**Month/Year (2) 865**] and central line in place
   - wean sedatives and paralytics today
   - monitor electrolytes, coags, and CBC Q6H then [**Hospital1 **]
   - continue surveillence daily BCx
   - Maintain MAP>90 for CNS perfusion
   - Currently only on norepinephrine
   - Will use fluid boluses for hypotension and try to wean pressor
   .
   # STEMI: Admission ECG showed ST elevations in II, III, V3-6.
   - Per cardiology, no indication for PCI
   - Continue ASA 325mg PO daily
   - cardiac enzymes neg and ECHO shows normal EF, no hypokinesis
   - d/c Plavix
   - d/c Heparin gtt
   - continue monitor on telemetry
   .
   # Aspiration PNA: Infiltrates on CXR and frank aspiration in
   endotracheal suction.
   - continue Vancomycin 1g IV BID, Zosyn 4.5g IV Q8H for 7 day course
   from [**2151-11-24**] to [**2151-12-1**]
   - continue Azithro 250mg IV q24h for 5 day course D1=[**11-24**]
   - f/u speciation/sensitivities on sputum cx
   - Frequent suctioning
   - Maintain on mechanical ventilation
   - f/u blood cx
   - NPO for now
   .
   # Possible Sepsis: continues to require pressor
   - Abx as above
   - f/u cx
   - IVF boluses for low BPs
   .
   # ALS with frontotemporal dementia: No acute interventions.
   - f/u Neuro recs
   - f/u EEG results
   .
   # FEN: IVF, replete electrolytes, NPO for now, nutrition c/s for TFs
   # Prophylaxis: Heparin drip, PPI, pneumoboots
   # Access: peripherals, R femoral line, R [**Last Name (LF) 865**], [**First Name3 (LF) 116**] order PICC
   # Communication: Husband [**Telephone/Fax (1) 6233**]
   # Code:  Full (discussed with family) -> family open to changing status
   pending pt
s MS [**First Name (Titles) 1782**] [**Last Name (Titles) **] is off
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-11-24**] 06:00 AM
   18 Gauge - [**2151-11-24**] 06:00 AM
   20 Gauge - [**2151-11-24**] 06:00 AM
   Arterial Line - [**2151-11-24**] 06:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2151-11-25 12:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   53 yo women with ALS, presented with PEA arrest, prolonged CPR.  Echo
   with mild LVH, preserved systolic function.
   24 Hour Events:
 URINE CULTURE - At [**2151-11-24**] 08:31 AM
 NASAL SWAB - At [**2151-11-24**] 08:31 AM
   mrsa
 EEG - At [**2151-11-24**] 12:50 PM
 TRANSTHORACIC ECHO - At [**2151-11-24**] 03:00 PM
 EKG - At [**2151-11-24**] 11:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2151-11-24**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-25**] 05:32 AM
   Vancomycin - [**2151-11-25**] 08:00 AM
   Infusions:
   Heparin Sodium - 400 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Fentanyl (Concentrate) - 225 mcg/hour
   Midazolam (Versed) - 8.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-11-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-25**] 12:35 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.1
C (95.2
   Tcurrent: 35.1
C (95.2
   HR: 74 (50 - 75) bpm
   BP: 102/50(70) {80/43(60) - 118/68(87)} mmHg
   RR: 10 (10 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 97 - 97
   Total In:
                                                                  6,183 mL
                                                                  2,171 mL
   PO:
   TF:
   IVF:
                                                                  3,153 mL
                                                                  2,141 mL
   Blood products:
   Total out:
                                                                  2,865 mL
                                                                    860 mL
   Urine:
                                                                  2,315 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,318 mL
                                                                  1,311 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/49/164/30/4
   Ve: 4.4 L/min
   PaO2 / FiO2: 410
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Sedated, Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   8.8 g/dL
   241 K/uL
   152 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   28.4 %
   12.5 K/uL
        [image002.jpg]
                            [**2151-11-24**]  06:22 AM
                            [**2151-11-24**]  08:22 AM
                            [**2151-11-24**]  11:57 AM
                            [**2151-11-24**]  12:39 PM
                            [**2151-11-24**]  05:40 PM
                            [**2151-11-24**]  05:44 PM
                            [**2151-11-25**]  12:07 AM
                            [**2151-11-25**]  12:08 AM
                            [**2151-11-25**]  06:13 AM
                            [**2151-11-25**]  06:14 AM
   WBC
   22.7
   15.4
   13.1
   13.7
   12.5
   Hct
   33.8
   29.4
   30.0
   29.7
   28.4
   Plt
   322
   265
   252
   293
   241
   Cr
   0.3
   0.2
   0.2
   0.2
   0.2
   TropT
   0.02
   0.02
   0.02
   TCO2
   31
   36
   34
   31
   31
   Glucose
   174
   171
   107
   99
   124
   152
   Other labs: PT / PTT / INR:12.2/55.0/1.0, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:247/121, Alk Phos / T Bili:110/0.3,
   Amylase / Lipase:/11, Fibrinogen:434 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:3.3 g/dL, LDH:328 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 CARDIAC ARREST
   PEA arrest:  has finished the arctic sun protocol.  Getting slowly
   rewarmed.  Can taper off all sedation through the course of they day.
   Severe PNA/respiratory failure
   HOTN: has had increasing pressor requirement.  is on broad spectrum
   antibiotics for PNA, CXR with bibasilar inflitrates.  Increased HOTN
   may
   be related to sedation, will observe as sedation is weaned off.
   ACS:  no evidence of ACS.  Stop heparin and plavix.
   Will put her in for a PIC.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-11-24**] 06:00 AM
   18 Gauge - [**2151-11-24**] 06:00 AM
   20 Gauge - [**2151-11-24**] 06:00 AM
   Arterial Line - [**2151-11-24**] 06:23 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-11-26 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2151-11-25**] 04:00 PM
   new power picc
 EKG - At [**2151-11-25**] 05:00 PM
 BLOOD CULTURED - At [**2151-11-25**] 08:00 PM
   right peripheral stick
   - Seizures: Pt was noted to have repetitive jerking motions of bilat
   feet w. eye deviation this afternoon, in association w. ? generalized
   discharges on EEG monitoring. Pt was given ativan 1mg IV x2 and we
   spoke with Neuro and decided to load pt w. Keppra 20mg/kg and start
   Keppra 1000 [**Hospital1 **]. Her EEG will be evaluated by an epilepsy attending in
   the AM. This appeared to stop the jerks, but difficult to tell.
   -Pt became tachycardic, reaching a peak of 150s, in the early evening;
   ECG showed sinus tach. DDX: seizures or beta blocker withdrawal in
   setting of levophed drip (as pt on Metop 75 [**Hospital1 **] at home), less likely
   hypovolemia (although we did transfuse the pt 1 unit PRBCs for HCT
   26.2) or pain/anxiety (as pt still sedated).  Dc'ed levophed, started
   neo, transfused 1U. Also treated szs as noted above, with improvement
   of HR to 90s.
   - Became tachy to 140s again this AM, clearly sinus on monitor, tried
   Ativan 1mg x2, although pt was not twitching. Also gave Midaz. Also
   bolused the pt 500cc. Also, has temp to 100.4.
   - got the PICC, fem line not dc'd yet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2151-11-25**] 04:00 PM
   Vancomycin - [**2151-11-25**] 08:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-26**] 06:00 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-11-25**] 08:29 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-25**] 09:55 PM
   Lorazepam (Ativan) - [**2151-11-26**] 07:10 AM
   Midazolam (Versed) - [**2151-11-26**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-26**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 129 (57 - 147) bpm
   BP: 110/59(79) {83/43(60) - 112/64(82)} mmHg
   RR: 10 (10 - 15) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CO/CI (Fick): (56.3 L/min) / (35.3 L/min/m2)
   Mixed Venous O2% Sat: 97 - 97
   Total In:
                                                                  4,607 mL
                                                                    971 mL
   PO:
   TF:
                                                                    122 mL
                                                                     83 mL
   IVF:
                                                                  4,105 mL
                                                                    888 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,160 mL
                                                                  1,325 mL
   Urine:
                                                                  2,160 mL
                                                                  1,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,447 mL
                                                                   -354 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/53/146/30/5
   Ve: 4.3 L/min
   PaO2 / FiO2: 417
   Physical Examination
   GEN: sedated, unresponsive
   HEENT: MMM, trach in place, neck is supple, no LAD
   CV: RR, tachy, no MRG
   PULM: Coarse rhonchi and crackles throughout the L lung fields, coarse
   breath sounds on the R
   ABD: BS+ NDNS, no masses or HSM
   LIMBS: R femoral line in place, no LE edema, no clubbing, wasted limbs
   SKIN: No skin breakdown or rashes
   NEURO: unresponsive, occasional myoclonic jerks of [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 610**] / Radiology
   266 K/uL
   9.7 g/dL
   117 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.1 mEq/L
   7 mg/dL
   102 mEq/L
   138 mEq/L
   30.3 %
   13.8 K/uL
        [image002.jpg]
                            [**2151-11-24**]  05:44 PM
                            [**2151-11-25**]  12:07 AM
                            [**2151-11-25**]  12:08 AM
                            [**2151-11-25**]  06:13 AM
                            [**2151-11-25**]  06:14 AM
                            [**2151-11-25**]  12:11 PM
                            [**2151-11-25**]  06:07 PM
                            [**2151-11-25**]  06:19 PM
                            [**2151-11-25**]  11:52 PM
                            [**2151-11-26**]  01:56 AM
   WBC
   13.7
   12.5
   12.5
   9.9
   13.8
   Hct
   29.7
   28.4
   29.5
   26.2
   30.3
   Plt
   293
   241
   243
   277
   266
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.3
   TCO2
   34
   31
   31
   33
   Glucose
   124
   152
   92
   153
   132
   117
   Other labs: PT / PTT / INR:12.7/33.4/1.1, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:169/68, Alk Phos / T Bili:106/0.5,
   Amylase / Lipase:/10, Fibrinogen:509 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.7 g/dL, LDH:315 IU/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL, PO4:3.6
   mg/dL
   Micro:
   Urine Legionella negative
   [**Date range (1) 10035**] Blood Cx - pending
   [**11-24**] Urine Cx
 pending
   [**11-24**] Sputum cx: gram stain >25 PMNs, 2+ GPC in pairs and clusters
   MRSA screen positive
   .
   Images:
   [**11-25**] CXR -
   The tracheostomy is in unchanged position, 4.5 cm above the carina.
   There is
   no change in cardiomegaly and bilateral parenchymal consolidations in
   the
   lower lobes, but there is interval improvement in the upper lobe
   aeration,
   most likely due to improvement of areas of contusion/aspiration.
   Assessment and Plan
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 TACHYCARDIA, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PNEUMONIA, ASPIRATION
   amyotrophic lateral sclerosis
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CARDIAC ARREST
   53F with amyotrohic lateral sclerosis with frontotemporal dementia
   admitted after 45 minutes of CPR for a PEA arrest as well as possible
   STEMI on Artic Sun protocol and aspiration PNA on antibiotics.
   # PEA arrest: Etiology is likely aspiration PNA leading to STEMI.
   - Initial therpeutic hypothermia with the Artic Sun protocol, now
   starting to warm up gradually
   - Continue to monitor on tele
   - Has [**Last Name 865**] and central line in place
   - wean sedatives and paralytics today
   - monitor electrolytes, coags, and CBC Q6H then [**Hospital1 **]
   - continue surveillence daily BCx
   - Maintain MAP>90 for CNS perfusion
   - Currently only on norepinephrine
   - Will use fluid boluses for hypotension and try to wean pressor
   .
   # STEMI: Admission ECG showed ST elevations in II, III, V3-6.
   - Per cardiology, no indication for PCI
   - Continue ASA 325mg PO daily
   - cardiac enzymes neg and ECHO shows normal EF, no hypokinesis
   - d/c Plavix
   - d/c Heparin gtt
   - continue monitor on telemetry
   .
   # Aspiration PNA: Infiltrates on CXR and frank aspiration in
   endotracheal suction.
   - continue Vancomycin 1g IV BID, Zosyn 4.5g IV Q8H for 7 day course
   from [**2151-11-24**] to [**2151-12-1**]
   - continue Azithro 250mg IV q24h for 5 day course D1=[**11-24**]
   - f/u speciation/sensitivities on sputum cx
   - Frequent suctioning
   - Maintain on mechanical ventilation
   - f/u blood cx
   - NPO for now
   .
   # Possible Sepsis: continues to require pressor
   - Abx as above
   - f/u cx
   - IVF boluses for low BPs
   .
   # ALS with frontotemporal dementia: No acute interventions.
   - f/u Neuro recs
   - f/u EEG results
   .
   # FEN: IVF, replete electrolytes, NPO for now, nutrition c/s for TFs
   # Prophylaxis: Heparin drip, PPI, pneumoboots
   # Access: peripherals, R femoral line, R [**Last Name (LF) 865**], [**First Name3 (LF) 116**] order PICC
   # Communication: Husband [**Telephone/Fax (1) 6233**]
   # Code:  Full (discussed with family) -> family open to changing status
   pending pt
s MS [**First Name (Titles) 1782**] [**Last Name (Titles) **] is off
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-11-25**] 05:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2151-11-24**] 06:00 AM
   18 Gauge - [**2151-11-24**] 06:00 AM
   Arterial Line - [**2151-11-24**] 06:23 AM
   PICC Line - [**2151-11-25**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-11-27 08:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2151-11-26**] 08:30 AM
 MULTI LUMEN - STOP [**2151-11-26**] 10:30 AM
   Placed in ED
 BLOOD CULTURED - At [**2151-11-26**] 05:00 PM
   - dc'd fem line
   - dc'd ASA
   - held TFs bc of high residual, then restarted in early afternoon as
   tolerated
   - got back on neo bc of BPs (SBP in 70s), then was able to be weaned
   off few hours later
   - got 500mg Keppra at 10am
   - got 1.5L NS boluses by noon
   - neuro recs:
   - at 2pm, desatted to mid80s, recovered once FiO2 incr to 100% and
   suctioning removed copius secretions/plugging -> now back to 40%
   - off [**Year (4 digits) **] since yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2151-11-26**] 04:00 PM
   Vancomycin - [**2151-11-26**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-27**] 12:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-26**] 11:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-27**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 90 (69 - 141) bpm
   BP: 108/67(84) {71/47(55) - 127/74(93)} mmHg
   RR: 10 (10 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  3,265 mL
                                                                    374 mL
   PO:
             TF:
                                                                    220 mL
                                                                    209 mL
   IVF:
                                                                  3,045 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  3,295 mL
                                                                    575 mL
   Urine:
                                                                  3,295 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 99%
   ABG: ///31/
   Ve: 4.7 L/min
   Physical Examination
   GEN
 nad, not spontaneously opening eyes or moving
   HEENT
 disconjugate gaze when eyes opened
   CV - rrr
   PULM
 decr BS on right, but relatively clear b/l
   ABD
 soft, nt, nd
   EXTR
 no edema
   Labs / Radiology
   201 K/uL
   8.7 g/dL
   106 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.8 mEq/L
   7 mg/dL
   102 mEq/L
   138 mEq/L
   26.7 %
   11.3 K/uL
        [image002.jpg]
                            [**2151-11-25**]  12:08 AM
                            [**2151-11-25**]  06:13 AM
                            [**2151-11-25**]  06:14 AM
                            [**2151-11-25**]  12:11 PM
                            [**2151-11-25**]  06:07 PM
                            [**2151-11-25**]  06:19 PM
                            [**2151-11-25**]  11:52 PM
                            [**2151-11-26**]  01:56 AM
                            [**2151-11-26**]  05:08 PM
                            [**2151-11-27**]  01:34 AM
   WBC
   13.7
   12.5
   12.5
   9.9
   13.8
   11.7
   11.3
   Hct
   29.7
   28.4
   29.5
   26.2
   30.3
   27.6
   26.7
   Plt
   293
   241
   243
   277
   266
   237
   201
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.3
   0.3
   0.2
   TCO2
   31
   33
   Glucose
   124
   152
   92
   153
   132
   117
   147
   106
   Other labs: PT / PTT / INR:12.6/37.7/1.1, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:107/57, Alk Phos / T Bili:96/0.3,
   Amylase / Lipase:/15, Fibrinogen:463 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.7 g/dL, LDH:282 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   LFT
s improved.
   Vanco 12.9 last night.
   No new imaging.
   EEG pending.
   Assessment and Plan
 ALTERATION IN NUTRITION
 ELECTROLYTE & FLUID DISORDER, OTHER
 TACHYCARDIA, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   amyotrophic lateral sclerosis
 PNEUMONIA, ASPIRATION
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CARDIAC ARREST
   53F with amyotrohic lateral sclerosis with frontotemporal dementia
   admitted after 45 minutes of CPR for a PEA arrest, completed Artic Sun
   protocol and also has aspiration PNA, on antibiotics.
   # Sinus tachycardia: Diff incl hypovolemia/bleed (Hct stable), PE (neg
   CTA, on ppx), pain/anxiety (on Fentanyl), seizure activity, reflex
   tachycardia from discontinuation of sedatives. Broad differential
   diagnosis.
   - f/u Neuro recs, EEG results, re; prognosis, ?seizure
   - discontinue AED
s for now, and monitor; as no clear evidence for
   seizure, and [**First Name11 (Name Pattern1) 344**]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) 613**] to cloud mental status waters
   - treat fever with Tylenol prn
   - off [**Last Name (NamePattern1) **], continue to hold
   - monitor clinically; look for causative agents/symptoms
   # s/p PEA arrest: Etiology is likely aspiration PNA. Completed Artic
   Sun protocol.
   - continue to monitor on tele
   - monitor electrolytes, coags, and CBC [**Hospital1 **], 5pm
   - maintain MAP>90 for CNS perfusion
   - currently off pressors
   .
   # STEMI: Admission ECG showed ST elevations in II, III, V3-6, however
   cardiac enzymes neg, ECHO did not show hypokinesis.
   - d/c ASA
   - continue monitor on telemetry
   .
   # Aspiration PNA: Infiltrates on CXR and frank aspiration in
   endotracheal suction.
   - continue Vancomycin 1g IV BID, Zosyn 4.5g IV Q8H for 7 day course
   from [**2151-11-24**] to [**2151-12-1**]
   - continue Azithro 250mg IV q24h for 5 day course D1=[**11-24**]
   - f/u speciation/sensitivities on sputum cx, likely MRSA
   - frequent suctioning
   - f/u blood cx
   - NPO for now, TF
   - consider bronch, hold for today
   - f/u today
s CXR
   .
   # ALS with frontotemporal dementia: No acute interventions.
   - f/u Neuro recs
   - f/u EEG results
   .
   # FEN: IVF, replete electrolytes, NPO for now, TFs
   # Prophylaxis: SC heparin, PPI, pneumoboots
   # Access: peripherals, R Aline, L PICC currently
   # Communication: Husband [**Telephone/Fax (1) 6233**]
   # Code:  Full (discussed with family) -> family open to changing status
   pending pt
s MS [**First Name (Titles) 1782**] [**Last Name (Titles) **] is off
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-11-26**] 12:00 PM 25 mL/hour
   Lines:
   18 Gauge - [**2151-11-24**] 06:00 AM
   Arterial Line - [**2151-11-24**] 06:23 AM
   PICC Line - [**2151-11-25**] 04:00 PM
   Code status: Full code

2151-11-29 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - the pt's family is open to changing her code status pending the pt
   mental status after [** **] is washed out
 they are awaiting the
   results of the 24-hour EEG monitoring and information from the neuro
   team regarding the pt's prognosis. AED's were stopped on [**11-27**], the pt
   is off of all [**Month/Year (2) **], and the family monitoring for improvement in
   the pt's mental status.
   - temp of 101.3 overnight - sent blood, urine, sputum cxrs. Ordered CXR
   for AM.
   - pt also w. blepharitis of L eyelid - plan to try warm compresses TID
   x 1 day, if this morning pt's eye still w. erythema/exudate, can start
   abxs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2151-11-28**] 08:20 PM
   Azithromycin - [**2151-11-28**] 08:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-28**] 11:57 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-11-28**] 08:20 PM
   Heparin Sodium (Prophylaxis) - [**2151-11-28**] 11:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-29**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.9
   HR: 81 (81 - 113) bpm
   BP: 106/67(76) {106/66(76) - 144/88(102)} mmHg
   RR: 10 (10 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,708 mL
                                                                    318 mL
   PO:
             TF:
                                                                  1,078 mL
                                                                    168 mL
   IVF:
                                                                  1,360 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  3,170 mL
                                                                    525 mL
   Urine:
                                                                  3,170 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -462 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 401 (401 - 451) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 244
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.6 cmH2O/mL
   SpO2: 100%
   ABG: ///32/
   Ve: 4.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Gen: No responsive to commands,
   Pulm: Course breath sounds bilaterally,
   CV: RRR, No M/R/G
   ABD: Soft, Non Tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   282 K/uL
   9.6 g/dL
   139 mg/dL
   0.3 mg/dL
   32 mEq/L
   3.7 mEq/L
   6 mg/dL
   100 mEq/L
   140 mEq/L
   30.0 %
   12.9 K/uL
        [image002.jpg]
                            [**2151-11-25**]  06:07 PM
                            [**2151-11-25**]  06:19 PM
                            [**2151-11-25**]  11:52 PM
                            [**2151-11-26**]  01:56 AM
                            [**2151-11-26**]  05:08 PM
                            [**2151-11-27**]  01:34 AM
                            [**2151-11-27**]  04:11 PM
                            [**2151-11-28**]  02:31 AM
                            [**2151-11-28**]  02:56 AM
                            [**2151-11-29**]  03:02 AM
   WBC
   9.9
   13.8
   11.7
   11.3
   10.3
   12.4
   12.9
   Hct
   26.2
   30.3
   27.6
   26.7
   29.4
   31.3
   30.0
   Plt
   277
   266
   237
   [**Telephone/Fax (3) 10093**]
   282
   Cr
   0.3
   0.2
   0.3
   0.3
   0.2
   0.2
   0.3
   0.3
   TCO2
   33
   36
   Glucose
   153
   132
   117
   147
   106
   208
   132
   139
   Other labs: PT / PTT / INR:12.1/38.8/1.0, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:88/67, Alk Phos / T Bili:108/0.3,
   Amylase / Lipase:/15, Fibrinogen:463 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:395 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   53F with amyotrohic lateral sclerosis with frontotemporal dementia
   admitted after 45 minutes of CPR for a PEA arrest, completed Artic Sun
   protocol and also has aspiration PNA, on antibiotics.
   # s/p PEA arrest: Etiology is likely aspiration PNA. Completed Artic
   Sun protocol.
   - f/u with neurology regarding prognosis, mental status
   - family meeting re: goals of care
   - continue to monitor on tele
   - monitor electrolytes, coags, and CBC daily check now
   - maintain MAP>65 unless otherwise instructed by neurology team
   - currently off pressors
   .
   # Sinus tachycardia: Diff incl hypovolemia/bleed (Hct stable), PE (neg
   CTA, on ppx), pain/anxiety (on Fentanyl), seizure activity, reflex
   tachycardia from discontinuation of sedatives. Broad differential
   diagnosis. Improved s/p Tylenol and metoprolol.
   - f/u Neuro recs, EEG results, re; prognosis, ?seizure
   - treat fever with Tylenol prn
   - off [**Telephone/Fax (3) **], continue to hold all [**Telephone/Fax (3) **]
   - monitor clinically; look for causative agents/symptoms
   - restart home metoprolol at half-dose (37.5 [**Hospital1 **])
   .
   # Aspiration PNA: Infiltrates on CXR and frank aspiration in
   endotracheal suction. MRSA pneumonia.
   - continue Vancomycin 1g IV BID, Zosyn 4.5g IV Q8H for 7 day course
   from [**2151-11-24**] to [**2151-12-1**]
   - continue Azithro 250mg IV q24h for 5 day course D1=[**11-24**]; today
   ([**11-28**]) is the last day
   - send c.diff due to low-grade temps
   - CIS (sputum, urine, blood) for temp >101
   - frequent suctioning
   - f/u blood cultures
   - NPO for now, TF
   .
   # Fever: Pt with fever overnight on Vanc, Zosyn.
   - Add Cipro to double cover for GNR
   - LFTS, Lipase
   .
   # ALS with frontotemporal dementia: No acute interventions.
   - f/u Neuro recs
   - f/u EEG results
   .
   # STEMI: Resolved issue. Admission ECG showed ST elevations in II, III,
   V3-6, however cardiac enzymes negative repeatedly, ECHO did not show
   hypokinesis.
   - d/c
d ASA
   - continue monitor on telemetry
   .
   # FEN: IVF, replete electrolytes, NPO for now, TFs
   # Prophylaxis: SC heparin, PPI, pneumoboots
   # Access: R Aline, L PICC currently
   # Communication: Husband [**Telephone/Fax (1) 6233**]
   # Code:  Full (discussed with family) -> family open to changing status
   pending pt
s MS [**First Name (Titles) 1782**] [**Last Name (Titles) **] is washed out (they are interested in
   the neuro perspective)
 today post-24 hours without AED
s or [**Last Name (Titles) **],
   will monitor EEG, discuss with neuro, and discuss prognosis with
   family.
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-11-25**] 04:00 PM
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-11-30 07:19:00 Physician Resident Progress Note
Chief Complaint: 53 yof with h/o ALS, FT dementia admitted s/p PEA
   arrest with prolonged downtown, now s/p artic sun post-arrest protocol.
   24 Hour Events:
   24 hour EEG: absence of any clear cerebral cortical activity. No focal
   or lateralizing epileptiform features were seen. There were no
   electrographic seizures captured during this recording.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2151-11-28**] 08:20 PM
   Vancomycin - [**2151-11-29**] 08:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-30**] 12:04 AM
   Ciprofloxacin - [**2151-11-30**] 06:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-11-29**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2151-11-29**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-30**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.9
C (100.3
   HR: 66 (66 - 121) bpm
   BP: 92/56(65) {92/56(65) - 140/105(112)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,615 mL
                                                                    574 mL
   PO:
             TF:
                                                                    525 mL
                                                                    102 mL
   IVF:
                                                                    900 mL
                                                                    472 mL
   Blood products:
   Total out:
                                                                  1,692 mL
                                                                    430 mL
   Urine:
                                                                  1,692 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 451 (451 - 451) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant, No Spon Resp
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.7 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 4.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   272 K/uL
   9.8 g/dL
   116 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   8 mg/dL
   103 mEq/L
   141 mEq/L
   30.6 %
   15.3 K/uL
        [image002.jpg]
                            [**2151-11-25**]  11:52 PM
                            [**2151-11-26**]  01:56 AM
                            [**2151-11-26**]  05:08 PM
                            [**2151-11-27**]  01:34 AM
                            [**2151-11-27**]  04:11 PM
                            [**2151-11-28**]  02:31 AM
                            [**2151-11-28**]  02:56 AM
                            [**2151-11-29**]  03:02 AM
                            [**2151-11-29**]  05:15 PM
                            [**2151-11-30**]  03:08 AM
   WBC
   13.8
   11.7
   11.3
   10.3
   12.4
   12.9
   15.3
   Hct
   30.3
   27.6
   26.7
   29.4
   31.3
   30.0
   30.6
   Plt
   266
   237
   201
   258
   232
   282
   272
   Cr
   0.2
   0.3
   0.3
   0.2
   0.2
   0.3
   0.3
   0.3
   0.5
   TCO2
   36
   Glucose
   132
   117
   147
   106
   [**Telephone/Fax (2) 10118**]23
   116
   Other labs: PT / PTT / INR:12.1/38.8/1.0, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:71/63, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:65/65, Differential-Neuts:69.9 %, Lymph:22.1 %,
   Mono:5.8 %, Eos:1.9 %, Fibrinogen:463 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:424 IU/L, Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.4
   mg/dL
   Microbiology
   - [**11-24**]: sputum
 sparse MRSA (sensitive to Vancomycin)
   - [**11-24**]: urine legionella
 negative
   - [**11-26**]: catheter tip
 negative
   - [**11-28**]: stool
 no c.diff
   - [**11-29**]: stool
 no c.diff
   Radiology
   - [**11-30**]: new CXR today
   Assessment and Plan
   53 yof with h/o ALS, FT dementia admitted s/p PEA arrest with prolonged
   downtown, now s/p artic sun post-arrest protocol, now with likely
   aspiration PNA and now notable absence of cortical activity on EEG.
   .
   # s/p PEA arrest: prolonged down time with anoxic brain injury, now
   with decr. brain activity on EEG
   - f/u neurology recs regarding prognosis
   - arrange family meeting to discuss result of EEG
   .
   # Aspiration PNA: Infiltrates on CXR and frank aspiration in
   endotracheal suction. MRSA pneumonia.
   - continue Vancomycin 1g IV BID, Zosyn 4.5g IV Q8H for 7 day course
   from [**2151-11-24**] to [**2151-12-1**]
   - continue Azithro 250mg IV q24h for 5 day course D1=[**11-24**]; today
   ([**11-28**]) is the last day
   - send c.diff due to low-grade temps
   - CIS (sputum, urine, blood) for temp >101
   - frequent suctioning
   - f/u blood cultures
   - NPO for now, TF
   .
   # Fever: Pt with fever overnight on Vanc, Zosyn.
   - Add Cipro to double cover for GNR
   - LFTS, Lipase
   .
   # ALS with frontotemporal dementia: No acute interventions.
   - f/u Neuro recs
   - f/u EEG results
   .
   # STEMI: Resolved issue. Admission ECG showed ST elevations in II, III,
   V3-6, however cardiac enzymes negative repeatedly, ECHO did not show
   hypokinesis.
   - d/c
d ASA
   - continue monitor on telemetry
   .
   # FEN: IVF, replete electrolytes, NPO for now, TFs
   # Prophylaxis: SC heparin, PPI, pneumoboots
   # Access: R Aline, L PICC currently
   # Communication: Husband [**Telephone/Fax (1) 6233**]
   # Code:  Full (discussed with family) -> family open to changing status
   pending pt
s MS [**First Name (Titles) 1782**] [**Last Name (Titles) **] is washed out (they are interested in
   the neuro perspective)
 today post-24 hours without AED
s or [**Last Name (Titles) **],
   will monitor EEG, discuss with neuro, and discuss prognosis with
   family.
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2151-11-25**] 04:00 PM
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 53F ALS, dementia, PEA arrest with prolonged
   down time now with aspiration pneumonia.
   Exam notable for Tm 101.3 BP 118/70 HR 100 RR 10 with sat 97 on VAC
   400x10 0.4 5 7.42/54/164. Blinks eyes, PERRL, normal doll
s response.
   Coarse BS B. RRR s1s2. Soft +BS, PEG c/d/i. 1+ edema, contractures.
   Labs notable for WBC 3.7K, HCT 30, K+ 3.7, Cr 0.3. CXR with patch BLL
   ASD.
   Agree with plan to manage likely severe post-arrest anoxic brain injury
   with serial exams, 24h EEG (read pending) and ongoing supportive care
   while off [**Year (4 digits) **] / paralytics (now x72h). Will meet with family to
   discuss overall prognosis and plan going forward once EEG read
   finalized. Suspect this is her new baseline. For fever, check BCx,
   sputum cx, LFTs, amylase / lipase and restart rx for possible partially
   treated aspiration / VAP. ALS / dementia stable, no further rx
   available. Will resume TFs, monitor residuals, HSC, PPI, PICC.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2151-11-29**] 09:30 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2151-11-25**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-12-01 06:24:00 Physician Resident Progress Note
Chief Complaint:  53 yof with h/o ALS, FT dementia admitted s/p PEA
   arrest with prolonged downtown, now s/p artic sun post-arrest protocol.
   24 Hour Events:
   - Discussion with daughter on phone re: EEG results, family are
   discussing code status
   - Sputum grew pseudomonas - on double cover
   - Picc line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2151-11-28**] 08:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2151-11-30**] 08:00 AM
   Vancomycin - [**2151-11-30**] 08:11 PM
   Piperacillin - [**2151-12-1**] 12:11 AM
   Ciprofloxacin - [**2151-12-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2151-11-30**] 08:30 AM
   Insulin - Humalog - [**2151-12-1**] 03:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-12-1**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 97 (58 - 121) bpm
   BP: 153/88(105) {81/53(61) - 153/89(105)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,292 mL
                                                                    814 mL
   PO:
             TF:
                                                                    632 mL
                                                                    290 mL
   IVF:
                                                                  1,600 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    170 mL
   Urine:
                                                                  1,890 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    402 mL
                                                                    644 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 451 (450 - 451) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.7 cmH2O/mL
   SpO2: 100%
   ABG: ///32/
   Ve: 4.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   301 K/uL
   8.9 g/dL
   129 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.2 mEq/L
   8 mg/dL
   103 mEq/L
   143 mEq/L
   27.8 %
   13.7 K/uL
        [image002.jpg]
                            [**2151-11-26**]  01:56 AM
                            [**2151-11-26**]  05:08 PM
                            [**2151-11-27**]  01:34 AM
                            [**2151-11-27**]  04:11 PM
                            [**2151-11-28**]  02:31 AM
                            [**2151-11-28**]  02:56 AM
                            [**2151-11-29**]  03:02 AM
                            [**2151-11-29**]  05:15 PM
                            [**2151-11-30**]  03:08 AM
                            [**2151-12-1**]  01:55 AM
   WBC
   13.8
   11.7
   11.3
   10.3
   12.4
   12.9
   15.3
   13.7
   Hct
   30.3
   27.6
   26.7
   29.4
   31.3
   30.0
   30.6
   27.8
   Plt
   266
   237
   201
   258
   232
   282
   272
   301
   Cr
   0.3
   0.3
   0.2
   0.2
   0.3
   0.3
   0.3
   0.5
   0.5
   TCO2
   36
   Glucose
   117
   147
   106
   [**Telephone/Fax (3) **]
   [**Telephone/Fax (3) 10140**]
   Other labs: PT / PTT / INR:12.5/29.7/1.1, CK / CKMB /
   Troponin-T:91/5/0.02, ALT / AST:71/63, Alk Phos / T Bili:98/0.3,
   Amylase / Lipase:65/65, Differential-Neuts:69.9 %, Lymph:22.1 %,
   Mono:5.8 %, Eos:1.9 %, Fibrinogen:463 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:424 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.4
   mg/dL
   Microbiology
   - [**11-29**]: Blood
 pending x 2
   - [**11-29**]: Urine
 negative
   - [**11-29**]: Sputum
 pseudomonas sparse growth
   Radiology
   - [**11-30**]: CXR
 persistent unchanged retrocardiac opacity with air
   bronchograms
   Assessment and Plan
   53 yof with h/o ALS, FT dementia admitted s/p PEA arrest with prolonged
   downtown, now s/p artic sun post-arrest protocol, now with pseudomonal
   / MRSA PNA and now notable absence of cortical activity on EEG.
   .
   # s/p PEA arrest: prolonged down time with severe anoxic brain injury
   and absence of cortical activity on EEG, brain stem remains intact
   - f/u neurology recs
   - supportive care
   - discuss disposition and code status with family
   .
   # Fever: patient afebrile x 24 hours, notable retrocardiac
   opacification on CXR, now with sputum Cx
s pos. for MRSA and
   Pseudomonas
   - antibiotics: vancomcyin (MRSA) cipro + zosyn (resistant pseudomonal
   coverage) for 14 day course from last pos. culture [**11-29**], tailor
   regimine as sensitivities become available
   - f/u blood, sputum cultures
   .
   # ALS with frontotemporal dementia: No acute interventions.
   - f/u Neuro recs
   .
   # Hypertension: continue Metoprolol 37.5 [**Hospital1 **]
   .
   # FEN: TF
s, daily electrolytes
   .
   # Prophylaxis: SQH, PPI, SCD
   .
   # Access: PICC line
   .
   # Communication: Husband [**Telephone/Fax (1) 6233**]
   .
   # Code:  Full (discussed with family) pending ongoing family
   discussions
   .
   # Disposition: ICU, begin LTCF screening